US07781436B2
1-Benzyl-4-(2-trifluoromethoxy-phenyl)-1,2,3,6-tetrahydro-pyridine
To a solution of 4-(2-trifluoromethoxy-phenyl)-pyridine in toluene was added (1 eq.) benzyl bromide, and reaction mixture was stirred under reflux for 2 h. Reaction was monitored by TLC (CH2Cl2/MeOH 95:5) and revealed total conversion to the first intermediate. Complete evaporation of solvent gave a white solid which was pure enough to carry out the next step. The white solid was dissolved in MeOH under argon and cooled down to 0° C., (4 eq.) NaBH4 was added portion-wise (exothermic reaction). The reaction mixture was then stirred for 3 h at RT, reaction again monitored by TLC (CH2Cl2/MeOH 95:5) and revealed total conversion. Evaporation of MeOH, redissolution in CH2Cl2, and washing with 1N NaHCO3 then brine, and evaporation, followed by SiO2 gel chromatography (CH2Cl2/MeOH) gave the title compound in 61% yield.

reactant | 4-(2-trifluoromethoxy-phenyl)-pyridine | FC(OC1=C(C=CC=C1)C1=CC=NC=C1)(F)F | C12H8F3NO
reactant | benzyl bromide | 1 eq. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
reactant | NaBH4 | 4 eq. | [BH4-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | CO | CH4O
product | 1-Benzyl-4-(2-trifluoromethoxy-phenyl)-1,2,3,6-tetrahydro-pyridine | 61% yield | C(C1=CC=CC=C1)N1CCC(=CC1)C1=C(C=CC=C1)OC(F)(F)F | C19H18F3NO
